US09353108B2
C) Ethyl 4′-fluoro-2-hydroxy-6-propoxybiphenyl-4-carboxylate
Palladium acetate (1.11 g) was added to a mixture of ethyl 4-bromo-3-hydroxy-5-propoxybenzoate (30.0 g), tripotassium phosphate (63.0 g), (4-fluorophenyl)boronic acid (34.6 g), and tricyclohexylphosphine (20% toluene solution, 17.6 mL) in toluene (200 mL) and water (100 mL), and the resultant mixture was heated with stirring overnight at 90° C. in an argon atmosphere. The reaction mixture was allowed to cool to room temperature, then diluted with ethyl acetate, and washed with water and saturated saline in this order. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (31.5 g).

reactant | ethyl 4-bromo-3-hydroxy-5-propoxybenzoate | 30.0 g | BrC1=C(C=C(C(=O)OCC)C=C1OCCC)O | C12H15BrO4
reactant | tripotassium phosphate | 63.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (4-fluorophenyl)boronic acid | 34.6 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | tricyclohexylphosphine | 17.6 mL | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium acetate | 1.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 4′-fluoro-2-hydroxy-6-propoxybiphenyl-4-carboxylate | 31.5 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1OCCC)C(=O)OCC)O | C18H19FO4
